Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.91141498762
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.602700228210001
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9](=[O:10])[H:11].[H:12],-0.805716138984
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.421830094380001
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],0.77891121559
[H:1][O:2][C:3]([O:4][H:5])[C:6]#[C:8][C:9]([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-2.86276123406
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11],3.85202195005
[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-8.08760419288
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-3.4704877729000003
[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]/[C:2]([H:3])=[C:4](/[O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.53971656194
[C:1].[C:2](=[C:3](\[H:4])[O:5][H:6])\[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]/[C:2](=[C:3](/[H:4])[O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.03287835953
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[O:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-6.02447400489
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1],3.964469004030002
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],0.41050242372
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.36064795809
[H:3].[O:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.69276768771
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:7]=[C:8]([H:9])[O:10][H:11],1.73002916917
[C:10]([H:11])[H:12].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.25953185
[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.6290518917300005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.6111156323
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([C:4]([H:5])([H:10])[H:11])[H:9].[O:6]([H:7])[C:8],2.9923959632
[H:1][C:2]([H:3])[O:4][C:5]1[C:6]2[O:7][C@@:8]12[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8][H:9],1.38411546449
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],6.98908255217
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-0.5564830325810001
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11],-1.87661764406
[H:14].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.32519634024
[C:1].[C:2](=[C:3](\[H:4])[C:5][H:6])\[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.67720590879
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])([C:12])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:13]([H:14])[H:15],3.70790710871
